US04125622
2.7 g of 6-hydroxy-3-hydroxycarbonyl-6-methyl-4-thiaundecanoic acid methyl ester is boiled with 3.3 g of α,α-dipyridyl disulphide and 5.4 g of triphenyl phosphine for 5 hours in 105 ml of xylene. After the usual working up, 6-pentyl-6-methyl-2-oxo-1,4-oxathiane-3-acetic acid is obtained

reactant | 6-hydroxy-3-hydroxycarbonyl-6-methyl-4-thiaundecanoic acid methyl ester | 2.7 g | COC(CC(SCC(CCCCC)(C)O)C(=O)O)=O | C13H24O5S
reactant | triphenyl phosphine | 5.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | 105 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-pentyl-6-methyl-2-oxo-1,4-oxathiane-3-acetic acid | C(CCCC)C1(CSC(C(O1)=O)CC(=O)O)C | C12H20O4S
